US08530482B2
1.66 g (6.77 mmol) of N-(5-acetyl-2-fluoro-phenyl)-N-methyl-methanesulfonamide were dissolved in 3.35 ml (3.0 g) (25.18 mmol) of N,N-dimethylformamide dimethylacetal and the resultant solution was refluxed for 2.5 hours. The mixture was cooled at room temperature. To the solid formed was added 20 ml of n-hexane and filtered to yield a solid which was crystallized from ethyl acetate. 1.37 g of N-[5-(3-dimethylamino-acryloyl)-2-fluoro-phenyl]-N-methyl-methanesulfonamide as a yellowish-white solid were obtained (yield 67.4%).

reactant | N-(5-acetyl-2-fluoro-phenyl)-N-methyl-methanesulfonamide | 6.77 mmol, 1.66 g | C(C)(=O)C=1C=CC(=C(C1)N(S(=O)(=O)C)C)F | C10H12FNO3S
reactant | N,N-dimethylformamide dimethylacetal | 25.18 mmol, 3.35 ml, 3.0 g | COC(N(C)C)OC | C5H13NO2
solvent | n-hexane | 20 ml | CCCCCC | C6H14
product | N-[5-(3-dimethylamino-acryloyl)-2-fluoro-phenyl]-N-methyl-methanesulfonamide | 1.37 g, yield 67.4% | CN(C=CC(=O)C=1C=CC(=C(C1)N(S(=O)(=O)C)C)F)C | C13H17FN2O3S
